US05378690
5 g (14.8 mmole) of the 5-morpholino-2-(1-naphthylmethylene)-5-oxopentanoic acid (prepared as described above) were dissolved in 50 ml of methanol and hydrogenated in an atmosphere of hydrogen at atmospheric pressure and in the presence of 1.0 g of a 10% w/w palladium-on-carbon catalyst. The catalyst was then removed by filtration, and the solvent was removed by distillation under reduced pressure. The residue was triturated with diethyl ether to precipitate crystals, which were collected by filtration to give 4.5 g of 5-morpholino-2-(1-naphthylmethyl)-5-oxopentanoic acid as white crystals, melting at 130°-135° C.

reactant | 5-morpholino-2-(1-naphthylmethylene)-5-oxopentanoic acid | 14.8 mmole, 5 g | O1CCN(CC1)C(CCC(C(=O)O)=CC1=CC=CC2=CC=CC=C12)=O | C20H21NO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-carbon | [Pd] | Pd
product | 5-morpholino-2-(1-naphthylmethyl)-5-oxopentanoic acid | 4.5 g | O1CCN(CC1)C(CCC(C(=O)O)CC1=CC=CC2=CC=CC=C12)=O | C20H23NO4
